US04829071
(A) 4-(Isopropylideneaminoxy)nitrobenzene
A solution of propanone oxime (30 g, 0.4 mole) in dry tetrahydrofuran (300 ml) was added slowly to a suspension of sodium hydride (10.8 g, 0.45 mole) in dry tetrahydrofuran (50 ml). After gas evolution was complete, dimethylsulphoxide (100 ml) and 4-fluoronitrobenzene (57.85 g, 0.41 mole) were added and the reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was then poured into water and extracted three times with ether. The combined ether extracts were washed with water, dried (MgSO4) and evaporated to give the title compound which was granulated in hexane and filtered, yield 67 g. A sample (7 g) was recrystallised from ethanol, yield 5 g, m.p. 104°-106°.

reactant | propanone oxime | 0.4 mole, 30 g | CC(C)=NO | C3H7NO
reactant | sodium hydride | 0.45 mole, 10.8 g | [H-].[Na+]
reactant | dimethylsulphoxide | 100 ml | CS(=O)C | C2H6OS
reactant | 4-fluoronitrobenzene | 0.41 mole, 57.85 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-(Isopropylideneaminoxy)nitrobenzene | C(C)(C)=NOC1=CC=C(C=C1)[N+](=O)[O-] | C9H10N2O3
